US08445530B2
2-[4-Methoxy-3-(2-m-tolyl-ethylamino)-benzoylamino]-indane-2-carboxylic acid
The title compound was prepared according to the general procedure described in example 125 using 0.5 g of resin (0.75 mmol/g). 4-Methoxy-3-nitro-benzoic acid in place of the hydroxy-substituted benzoic acid was used in the acylation step, and the nitro group was subsequently reduced with a 1 M solution of tin(II) chloride dihydrate in DMF overnight. The resin was washed with DMF, DCM and reacted with 2,4-dinitro-benzenesulfonyl chloride (5 equivalents) and 2,6-lutidine (10 equivalents) dissolved in 5 ml of DCM for 5 h. After washing with DCM and THF, a solution of triphenylphosphine (10 equivalents) and 2-(3-methylphenyl)-ethanol (10 equivalents) in THF was added to the resin and the slurry was cooled to 0° C. DIAD was added to the cooled mixture and the reaction mixture was shaken overnight at room temperature. The resin was washed with DCM and treated with mercaptoacetic acid (5 equivalents) and triethylamine (10 equivalents) in DCM for 10 min. The step was repeated with a fresh solution. The resin was washed with DMF and DCM. The compound was cleaved from the resin with neat TFA for 2 h, the carboxylic acid amide was converted into the carboxylic acid as described in the general procedure in example 125 and the title compound purified by preparative RP HPLC (water/ACN gradient). Yield: 36.4 mg.

reactant | 4-Methoxy-3-nitro-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | 2,4-dinitro-benzenesulfonyl chloride | 5 equivalents | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | 2,6-lutidine | 10 equivalents | N1=C(C=CC=C1C)C | C7H9N
reactant | triphenylphosphine | 10 equivalents | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(3-methylphenyl)-ethanol | 10 equivalents | CC=1C=C(C=CC1)CCO | C9H12O
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | mercaptoacetic acid | 5 equivalents | SCC(=O)O | C2H4O2S
reactant | triethylamine | 10 equivalents | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-Methoxy-3-(2-m-tolyl-ethylamino)-benzoylamino]-indane-2-carboxylic acid | COC1=C(C=C(C(=O)NC2(CC3=CC=CC=C3C2)C(=O)O)C=C1)NCCC=1C=C(C=CC1)C | C27H28N2O4
